US05529999
N-methyl-indoline-5-sulfonamide (225 mg, 1.06 mmol), as prepared supra, was mixed with 10% palladium on carbon (84 mg) in methanol (8 ml) and these were refluxed for 23 hours. Additional 10% palladium on carbon (100 mg) and methanol (5 ml) were added, and refluxing continued for an additional 23 hours. The cooled reaction mixture was filtered through a Celite® pad, evaporated, and the crude solid redissolved in tetrahydrofuran and again filtered through a Celite® pad. Evaporation of the filtrate gave 211 mg (95%) of N-methyl-1H-indole-5-sulfonamide. This intermediate could also be produced from the reaction of N-methyl-indoline-5-sulfonamide and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) in refluxing ethylene glycol monomethyl ether in 35% yield using known procedures. See, e.g. H. Breuer and H. H ohn, Chimie Therapeutique, 6:659 (1973 ).

reactant | N-methyl-indoline-5-sulfonamide | 1.06 mmol, 225 mg | CNS(=O)(=O)C=1C=C2CCNC2=CC1 | C9H12N2O2S
catalyst | palladium on carbon | 84 mg | [Pd] | Pd
solvent | methanol | 8 ml | CO | CH4O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | methanol | 5 ml | CO | CH4O
product | N-methyl-1H-indole-5-sulfonamide | 211 mg, 95% | CNS(=O)(=O)C=1C=C2C=CNC2=CC1 | C9H10N2O2S
